US08541411B2
Preparation of 1-[(2-fluoro-3-methylphenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid
A mixture of methyl 1-[(2-fluoro-3-methylphenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylate, prepared as described in Example 28 (240 mg, 0.6 mmol) and 2 N LiOH (1.8 mL, 3.6 mmol) in THF (20 mL), was stirred at 45° C. for 16 h. The solution was filtered; the filter cake was then dissolved in water (20 mL) and added into formic acid to adjust the pH of the solution to 3-4. Then a filtration was performed to provide the product (160 mg, 70%), as a white solid. 1H NMR (300 MJz, DMSO-d6): δ ppm 2.24 (d, 3H, J=1.8 Hz), 2.50 (s, 3H), 3.12 (t, 4H, J=4.8 Hz), 3.75 (t, 4H, J=4.8 Hz), 5.57 (s, 2H), 6.74 (t, 1H, J=7.5 Hz), 7.03 (t, 1H, J=7.5 Hz), 7.24 (t, 1H, J=7.5 Hz), 7.40 (d, 1H, J=2.4 Hz), 7.42 (d, 1H, J=2.4 Hz); LC-MS: m/e=384 [M+1]+

reactant | methyl 1-[(2-fluoro-3-methylphenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylate | FC1=C(C=CC=C1C)CN1C(=NC2=C1C=C(C=C2C(=O)OC)N2CCOCC2)C | C22H24FN3O3
reactant | LiOH | 3.6 mmol, 2 N, 1.8 mL | [Li+].[OH-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-[(2-fluoro-3-methylphenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid | 160 mg, 70% | FC1=C(C=CC=C1C)CN1C(=NC2=C1C=C(C=C2C(=O)O)N2CCOCC2)C | C21H22FN3O3
